US03935209
1.6 G. of 2-amino-4-(3-thienylthio)-1-nitrobenzene is treated with 1.6 g. of iron powder in a refluxing mixture of 1.6 ml. of water, 0.16 ml. of conc. hydrochloric acid and 100 ml. of toluene. After 3 hours when the reaction is complete, the iron residue is filtered off and the filtrate stripped under vacuum to afford 1,2-diamino-4-(3-thienylthio)-benzene.

reactant | 2-amino-4-(3-thienylthio)-1-nitrobenzene | NC1=C(C=CC(=C1)SC1=CSC=C1)[N+](=O)[O-] | C10H8N2O2S2
reactant | water | O | H2O
reactant | hydrochloric acid | Cl | ClH
catalyst | iron | [Fe] | Fe
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1,2-diamino-4-(3-thienylthio)-benzene | NC1=C(C=C(C=C1)SC1=CSC=C1)N | C10H10N2S2
